US07217710B2
Preparation of {3-[1-Methyl-6-(2-morpholin-4-yl-ethylamino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-benzyl}-carbamic acid tert-butyl ester
Prepared as described above in Example 15 starting from (3-bromo-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl)-(2-morpholin-4-yl-ethyl)-amine and [3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-carbamic acid carbamic acid tert-butyl ester to give the title compound {3-[1-methyl-6-(2-morpholin-4-yl-ethylamino)-1H-pyrazolo[3,4-d]pyrimidin-3yl]-benzyl}-carbamic acid tert-butyl ester; LC/MS (m/e)=468.4 (MH+), Rt=1.39 min

reactant | (3-bromo-1-methyl-1H-pyrazolo[3,4-d]pyrimidin-6-yl)-(2-morpholin-4-yl-ethyl)-amine | BrC1=NN(C2=NC(=NC=C21)NCCN2CCOCC2)C | C12H17BrN6O
reactant | [3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-carbamic acid carbamic acid tert-butyl ester | C(C)(C)(C)OC(N)=O.CC1(OB(OC1(C)C)C=1C=C(CNC(O)=O)C=CC1)C
product | {3-[1-methyl-6-(2-morpholin-4-yl-ethylamino)-1H-pyrazolo[3,4-d]pyrimidin-3yl]-benzyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=CC=C1)C1=NN(C2=NC(=NC=C21)NCCN2CCOCC2)C)=O | C24H33N7O3
